US09302991B2
<Step-5>:(−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (single enantiomer)
(R)-2-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide (single diastereomer) (6.15 g, 18.9 mmol, Step-4) is dissolved in 8M hydrochloric acid in methanol (20 mL). The mixture is stirred at room temperature for 2 hours. The reaction mixture is concentrated under reduced pressure. The residue is crystallized from n-hexane/ethyl acetate to give 4.40 g (90% yield) of the title compound as a white solid.

reactant | (R)-2-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide | 18.9 mmol, 6.15 g | CC(C)(C)[S@@](=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C13H19F3N2O2S
reactant | hydrochloric acid | 8M | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 4.40 g, 90% yield | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F | InChI=1S/C9H11F3N2O.ClH/c1-6(13)7-2-3-8(14-4-7)15-5-9(10,11)12;/h2-4,6H,5,13H2,1H3;1H
